US06133279
Under a nitrogen atmosphere, 1.2 g of 5-acetoxy-2-(4-aminophenoxymethyl)-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran was dissolved in 30 ml of toluene. To the solution was added 11.3 ml of diisobutyl aluminum hydride (1.0 M in toluene) and the mixture was stirred at room temperature for 2 hours. After reaction, a saturated aqueous ammonium chloride solution was added and insoluble matters were filtered off on Celite and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with n-hexane containing 33% ethyl acetate to give 0.63 g of 2-(4-aminophenoxymethyl)-4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran as a pale yellow oil (yield 59%).

reactant | 5-acetoxy-2-(4-aminophenoxymethyl)-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran | 1.2 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)COC2=CC=C(C=C2)N)C1C(C)(C)C)C(C)(C)C | C26H35NO4
reactant | diisobutyl aluminum hydride | 1.0 M, 11.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-aminophenoxymethyl)-4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran | 0.63 g, yield 59% | NC1=CC=C(OCC2(OC3=C(C2)C(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)C)C=C1 | C24H33NO3
